US05994270
To 11.3 g KOH (176 mmol) in 100 mL ethanol at 0° C. was added in small portions 22.2 g of 2,3-dibromo-2,3-dihydrobenzofuran, and the resulting reaction mixture was stirred at 0° C. for an additional 3 h. Most of the solvent was then removed in vacuo. Water and ether were added to the residue. The aq layer was separated and extracted with ether. The combined ether layers were washed with water and brine, dried (MgSO4), and concentrated to give 17 g of 3-bromobenzofuran.

reactant | KOH | 176 mmol, 11.3 g | [OH-].[K+]
reactant | 2,3-dibromo-2,3-dihydrobenzofuran | 22.2 g | BrC1OC2=C(C1Br)C=CC=C2 | C8H6Br2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 3-bromobenzofuran | 17 g | BrC1=COC2=C1C=CC=C2 | C8H5BrO
